US09145415B2
To a solution of N-Boc-glycine (129 mg) in tetrahydrofuran (3.5 mL), isobutyl chloroformate (97 μL) and N-methylmorpholine (81 μL) were added under ice cooling, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture, 4-iodobenzene-1,2-diamine (200 mg) synthesized according to the method described in WO2010/065668 A1 was added under ice cooling, and the mixture was stirred at room temperature for 1 hour, and then acetic acid (3.5 mL) was added, and the mixture was stirred at 70° C. for 2 hours. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed successively with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 80 to 0% hexane in ethyl acetate) to obtain tert-butyl ((6-iodo-1H-benzo[d]imidazol-2-yl)methyl)carbamate (G4, 216 mg).

reactant | N-Boc-glycine | 129 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 4-iodobenzene-1,2-diamine | 200 mg | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | isobutyl chloroformate | 97 μL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | N-methylmorpholine | 81 μL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl ((6-iodo-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 216 mg | IC=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C13H16IN3O2
